US08754079B2
110.3 Racemic 4-[2-((cis)-3-Methoxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 0.1 g racemic 4-[2-((cis)-3-methoxycyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and ammonia (7 M in methanol) using TBTU instead of HATU in DMF as solvent.

reactant | racemic 4-[2-((cis)-3-methoxycyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.1 g | CO[C@H]1C[C@H](CCC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C20H22N4O4S
reactant | ammonia | 7 M | N | H3N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
product | Racemic 4-[2-((cis)-3-Methoxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | CO[C@H]1C[C@H](CCC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C20H23N5O3S
